US05698584
Step 2 5,5-Dimethyl-3-(3,4-difluorophenoxy)-2-hydroxy-4-(4-(methylsulfonyl)phenyl)-2,5-dihydrofuran
To a 0° C. solution of 3-(3,4-difluorophenoxy)-5,5-dimethyl-4-(4-(methylsulfonyl)phenyl)-5H-furan-2-one (500 mg, 1.27 mmol) in 10 mL of THF was added DIBAL (1.5M in toluene, 2.8 mL, 4.2 mmol). Warmed to r.t. and stirred 30 min. The reaction was quenched with acetone, followed by 0.5M sodium potassium tartrate and stirred overnight. The mixture was extracted with EtOAc, washed with brine, dried over MgSO4, filtered and concentrated. Crystalization from CH2Cl2 /toluene provided 350 mg of the title compound.

reactant | 3-(3,4-difluorophenoxy)-5,5-dimethyl-4-(4-(methylsulfonyl)phenyl)-5H-furan-2-one | 1.27 mmol, 500 mg | FC=1C=C(OC=2C(OC(C2C2=CC=C(C=C2)S(=O)(=O)C)(C)C)=O)C=CC1F | C19H16F2O5S
reactant | DIBAL | 4.2 mmol, 1.5M, 2.8 mL | CC(C)C[AlH]CC(C)C
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5,5-Dimethyl-3-(3,4-difluorophenoxy)-2-hydroxy-4-(4-(methylsulfonyl)phenyl)-2,5-dihydrofuran | 350 mg | CC1(C(=C(C(O1)O)OC1=CC(=C(C=C1)F)F)C1=CC=C(C=C1)S(=O)(=O)C)C | C19H18F2O5S
